US06399601B1
3-Methyl-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester
4-Methyl-thiophene-2carbaldehyde (Detty, M. R.; Hays, D. S., Heterocycles, 40: 925-37 (1995)) was annulated according to Procedure H (aldehyde and azido-acetic acid ethyl ester added as ethanol solution (1,1 M of ester); reaction poured into cold saturated aqueous NH4Cl; after ether extractions, acrylate organic phase washed with water until aqueous phase was neutral; acrylate not purified).

reactant | 4-Methyl-thiophene-2carbaldehyde | CC=1C=C(SC1)C=O | C6H6OS
reactant | azido-acetic acid ethyl ester | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethanol | 1,1 M | C(C)O | C2H6O
product | 3-Methyl-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CC2=C(N1)C(=CS2)C | C10H11NO2S
